US09023849B2
3-[1-(2-Fluorobenzyl)-1H-pyrazolo[3,4-d]pyrimidin-3-yl]-7,7-dimethyl-5,7-dihydro-6H-pyrrolo[2,3-e][1,2,4]triazin-6-one
186 mg (0.438 mmol) of methyl 2-{3-[1-(2-fluorobenzyl)-1H-pyrazolo[3,4-d]pyrimidin-3-yl]-5-hydroxy-1,2,4-triazin-6-yl}-2-methylpropanoate were admixed with 4 ml (42.913 mmol) of phosphoryl chloride and the mixture was stirred at RT for 2.5 h. The reaction solution was diluted with 20 ml of dry acetonitrile and gradually added dropwise while cooling with ice to 30 ml of a 25% aqueous ammonia solution, and the mixture was stirred at RT overnight. The reaction mixture was concentrated on a rotary evaporator and the precipitate was filtered off. 127 mg of the target compound were obtained (74% of theory).

reactant | methyl 2-{3-[1-(2-fluorobenzyl)-1H-pyrazolo[3,4-d]pyrimidin-3-yl]-5-hydroxy-1,2,4-triazin-6-yl}-2-methylpropanoate | 0.438 mmol, 186 mg | FC1=C(CN2N=C(C=3C2=NC=NC3)C=3N=NC(=C(N3)O)C(C(=O)OC)(C)C)C=CC=C1 | C20H18FN7O3
reactant | phosphoryl chloride | 42.913 mmol, 4 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | ammonia | N | H3N
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 3-[1-(2-Fluorobenzyl)-1H-pyrazolo[3,4-d]pyrimidin-3-yl]-7,7-dimethyl-5,7-dihydro-6H-pyrrolo[2,3-e][1,2,4]triazin-6-one | 127 mg | FC1=C(CN2N=C(C=3C2=NC=NC3)C=3N=NC2=C(N3)NC(C2(C)C)=O)C=CC=C1 | C19H15FN8O
